US07285368B2
In a nitrogen atmosphere, 115 g of methanesulfonyl chloride was added dropwise to a mixture of 115 g of 4-aminocyclohexanol, 212 g of triethylamine and 1,000 g of N,N-dimethylformamide at −20° C. The mixture was stirred for one hour, after which 105 g of methacryloyl chloride was added dropwise at −20° C. The mixture was gradually warmed to room temperature and then stirred for 5 hours. The reaction mixture was subjected to conventional aqueous work-up and purified by column chromatography, obtaining 196 g of 4-[(methylsulfonyl)amino]cyclohexyl methacrylate. The yield was 75% based on the 4-aminocyclohexanol.

reactant | methanesulfonyl chloride | 115 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-aminocyclohexanol | 115 g | NC1CCC(CC1)O | C6H13NO
reactant | triethylamine | 212 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 105 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | N,N-dimethylformamide | 1,000 g | CN(C=O)C | C3H7NO
product | 4-[(methylsulfonyl)amino]cyclohexyl methacrylate | 196 g, yield was 75% | C(C(=C)C)(=O)OC1CCC(CC1)NS(=O)(=O)C | C11H19NO4S
